US06344449B1
4-(4-pyridinyl)-1-[3-(4-pyridinyl)-D,L-alanyl]-piperazine-hydrochloride
16.4 g (0.04 mol) of 1-[N-[(1,1-dimethylethoxy)carbonyl]-3-(4-pyridinyl)-D,L-alanyl]-4-(4-pyridinyl)-piperazine, dissolved in 100 ml of methanol, were mixed with 20 ml of ethereal hydrochloric acid and the reaction mixture was heated to 40° C. The desired compound crystallised out of the reaction mixture.

reactant | 1-[N-[(1,1-dimethylethoxy)carbonyl]-3-(4-pyridinyl)-D,L-alanyl]-4-(4-pyridinyl)-piperazine | 0.04 mol, 16.4 g | CC(C)(OC(=O)NC(CC1=CC=NC=C1)C(=O)N1CCN(CC1)C1=CC=NC=C1)C | C22H29N5O3
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 4-(4-pyridinyl)-1-[3-(4-pyridinyl)-D,L-alanyl]-piperazine-hydrochloride | Cl.N1=CC=C(C=C1)N1CCN(CC1)C(C(N)CC1=CC=NC=C1)=O | InChI=1S/C17H21N5O.ClH/c18-16(13-14-1-5-19-6-2-14)17(23)22-11-9-21(10-12-22)15-3-7-20-8-4-15;/h1-8,16H,9-13,18H2;1H
